US07405299B2
A. Preparation of 6-Bromo-imidazo[1,2-a]pyridine
Reflux a solution of 2-amino-5-bromo-pyridine (Maybridge; 1.0 g, 5.78 mmol), 50% aqueous chloroacetaldehyde (2 mL, 12.7 mmol) in acetonitrile (100 mL) for 14 h. Dilute the reaction with saturated aqueous sodium bicarbonate and extract into ethyl acetate. Flash chromatography using appropriate ethyl acetate/hexane mixtures gives 0.95 g (83%) of the subtitled compound as a tan solid. MS (electrospray, m/z) 196.7, 198.7 (M+1). 1H NMR (400 MHz, DMSO-d6) δ 8.9 (d, J=1.5 Hz, 1H), 7.90 (s, 1H), 7.58 (d, J=1.5 Hz, 1H), 7.53 (d, J=9.2 Hz, 1H), 7.29 (dd, J=9.2, 2 Hz, 1H).

reactant | 2-amino-5-bromo-pyridine | 5.78 mmol, 1.0 g | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | chloroacetaldehyde | 12.7 mmol, 2 mL | ClCC=O | C2H3ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 6-Bromo-imidazo[1,2-a]pyridine | 0.95 g, 83% | BrC=1C=CC=2N(C1)C=CN2 | C7H5BrN2
